US09035073B2
3-(3,4-difluorophenyl)-1-ethyl-3-methoxypyrrolidine
To a solution of 3-(3,4-difluorophenyl)-3-methoxypyrrolidine (0.19 g, 0.89 mmol) in acetonitrile (5 ml), potassium carbonate (0.17 g, 1.25 mmol) and iodoethane (0.075 ml, 0.94 mmol) was added and the mixture was stirred at ambient temperature for 5 h. Aqueous sodiumcarbonate (10%, 50 ml) and ethyl acetate (50 ml) was added and the organic phase was collected. The aqueous phase was extracted with ethyl acetate (2×50 ml) and the combined organic phase was washed with Brine, dried (Na2SO4) and evaporated to give the crude product. Purification on a Biotage Isolute SCX-3 SPE column (washed with methanol and eluted with methanol/triethylamine, 4:1) followed by flash column chromatography on silica gel (EtOAc/MeOH 4:1) gave the title compound (0.10 g, 46%). The amine was converted to the oxalic acid salt and recrystallized from methanol/diethyl ether: M.p. 135-136° C. MS m/z (rel. intensity, 70 eV) 241 (4), 226 (27), 211(17), 141 (26), 71 (bp).

reactant | 3-(3,4-difluorophenyl)-3-methoxypyrrolidine | 0.89 mmol, 0.19 g | FC=1C=C(C=CC1F)C1(CNCC1)OC | C11H13F2NO
reactant | potassium carbonate | 1.25 mmol, 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.94 mmol, 0.075 ml | ICC | C2H5I
reactant | sodiumcarbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3,4-difluorophenyl)-1-ethyl-3-methoxypyrrolidine | 0.10 g, 46% | FC=1C=C(C=CC1F)C1(CN(CC1)CC)OC | C13H17F2NO
